US07671043B2
12A. {4-[5-(4-Methylphenyl)-1,2,4-oxadiazol-3-yl]phenyl}methanol
The title compound was prepared from 4-methylbenzoic acid by procedures analogous to those described in Preparations (8A-8C) for the preparation of {4-[5-(4-isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-phenyl}-methanol.

reactant | 4-methylbenzoic acid | CC1=CC=C(C(=O)O)C=C1 | C8H8O2
reactant | {4-[5-(4-isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-phenyl}-methanol | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(C=C1)CO | C19H20N2O2
product | {4-[5-(4-Methylphenyl)-1,2,4-oxadiazol-3-yl]phenyl}methanol | CC1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(C=C1)CO | C16H14N2O2
